US04348327
A solution of 6.26 g of 17α-hydroxy-17-cyano-4-androsten-3-one in 50 ml of glacial acetic acid and 50 ml of acetic anhydride is combined with 0.5 ml of 70% perchloric acid, and the mixture is allowed to stand for 1 hour at 20° C. The product is precipitated into ice water, filtered off, and then dissolved in 570 ml of methanol. This solution is combined with 61 ml of a 1 N potassium hydroxide solution, and the mixture is stirred overnight at 20° C. The methanolic solution is diluted with 500 g of ice water, the precipitated product is vacuum-filtered and dried. Repeated crystallization from ethyl acetate--methylene chloride yields 5.62 g of 17α-hydroxy-3-oxo-4-androstene-17-carboxylic acid amide, mp 271°-273.5° C.

reactant | 17α-hydroxy-17-cyano-4-androsten-3-one | 6.26 g | O[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C#N | C20H27NO2
reactant | perchloric acid | 0.5 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 17α-hydroxy-3-oxo-4-androstene-17-carboxylic acid amide | 5.62 g | O[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)N | C20H29NO3
